US08754226B2
tert-butyl 4-((3S,4S)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-4-hydroxy-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (80 mg, 0.169 mmol) was dissolved in CH2Cl2 (1 mL) and 4N HCl in dioxane (1 mL) was added and stirred at ambient temperature for 6 hours. The reaction was concentrated to afford crude (3S,4S)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-4-hydroxy-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride (80 mg).

reactant | tert-butyl 4-((3S,4S)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-4-hydroxy-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.169 mmol, 80 mg | FC1=C(O[C@@H]2C(N(C[C@@H]2O)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=CC(=C1)S(=O)(=O)C | C21H29FN2O7S
reactant | HCl | 4N | Cl | ClH
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (3S,4S)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-4-hydroxy-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride | 80 mg | Cl.FC1=C(O[C@@H]2C(N(C[C@@H]2O)C2CCNCC2)=O)C=CC(=C1)S(=O)(=O)C | InChI=1S/C16H21FN2O5S.ClH/c1-25(22,23)11-2-3-14(12(17)8-11)24-15-13(20)9-19(16(15)21)10-4-6-18-7-5-10;/h2-3,8,10,13,15,18,20H,4-7,9H2,1H3;1H/t13-,15-;/m0./s1
